US05633248
6-Cyano-4,4-diphenylhexanoic Acid
To a solution of ethyl 6-cyano-4,4-diphenylhexanoate (25.5 g) in ethanol (400 ml) was added 1N-aqueous sodium hydroxide solution (120 ml) and the mixture was heated and stirred at 60° C. for 1 hour. After completion of the reaction, the reaction mixture was concentrated under reduced pressure and the group was made acidic to with 1N-hydrochloric acid and extracted with ethyl acetate (200 ml×2). The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated to dryness. The group (25 g) was recrystallized from chloroform-hexane to provide the title compound (22 g) as white powder.

reactant | ethyl 6-cyano-4,4-diphenylhexanoate | 25.5 g | C(#N)CCC(CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H23NO2
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 6-Cyano-4,4-diphenylhexanoic Acid | 22 g | C(#N)CCC(CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H19NO2
